US07612114B2
6-(3-Hydroxybenzyl)-4′-(2-piperidin-1-ylethoxy)biphenyl-3-ol
Synthesized from 5′-methoxy-2′-(3-methoxybenzyl)biphenyl-4-ol and 1-(2-chloroethyl)piperidine hydrochloride according to an analogous synthetic method to Preparation Example 40, 1-{2-[5′-methoxy-2′-(3-methoxybenzyl)biphenyl-4-yloxy]ethyl}piperidine (158 mg) was used according to an analogous synthetic method to Example 779 to provide the title compound (70 mg).

reactant | 5′-methoxy-2′-(3-methoxybenzyl)biphenyl-4-ol | COC=1C=CC(=C(C1)C1=CC=C(C=C1)O)CC1=CC(=CC=C1)OC | C21H20O3
reactant | 1-(2-chloroethyl)piperidine hydrochloride | Cl.ClCCN1CCCCC1
reactant | 1-{2-[5′-methoxy-2′-(3-methoxybenzyl)biphenyl-4-yloxy]ethyl}piperidine | 158 mg | COC=1C=CC(=C(C1)C1=CC=C(C=C1)OCCN1CCCCC1)CC1=CC(=CC=C1)OC | C28H33NO3
product | 6-(3-Hydroxybenzyl)-4′-(2-piperidin-1-ylethoxy)biphenyl-3-ol | 70 mg | OC=1C=C(CC2=CC=C(C=C2C2=CC=C(C=C2)OCCN2CCCCC2)O)C=CC1 | C26H29NO3
